US06313116B1
2-Cyclopropyl-4-methoxybenzothiazole-7-carboxylic acid
Starting from 7-bromo-2-cyclopropyl-4-methoxybenzothiazole (515 mg), palladium (II) acetate (40 mg), bis-diphenylphosphinopropane (149 mg), and triethylamine (2.5 ml) in tetrahydrofuran (15 ml) and water (7 ml). Trituration of the residue with diethyl ether yielded the title compound as an off-white solid (360 mg). TLC Rf 0.49 (ethyl acetate).

reactant | 7-bromo-2-cyclopropyl-4-methoxybenzothiazole | 515 mg | BrC1=CC=C(C=2N=C(SC21)C2CC2)OC | C11H10BrNOS
reactant | bis-diphenylphosphinopropane | 149 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C(C)(C)P(C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | triethylamine | 2.5 ml | C(C)N(CC)CC | C6H15N
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | water | 7 ml | O | H2O
catalyst | palladium (II) acetate | 40 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-Cyclopropyl-4-methoxybenzothiazole-7-carboxylic acid | 360 mg | C1(CC1)C=1SC2=C(N1)C(=CC=C2C(=O)O)OC | C12H11NO3S
